US06518257B1
(i) Production of N-(3-bromobenzyl)acetamide
To a solution of 3-bromobenzylamine hydrochloride (5.20 g) in pyridine (30 ml) was added acetic anhydride (3.2 ml) at 0° C. and the mixture was stirred at room temperature for 24 h. Water and ethyl acetate were added to the reaction mixture for partitioning, and the organic layer was washed with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give the title compound (4.00 g) as colorless needle crystals.

reactant | 3-bromobenzylamine hydrochloride | 5.20 g | Cl.BrC=1C=C(CN)C=CC1
reactant | acetic anhydride | 3.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-bromobenzyl)acetamide | 4.00 g | BrC=1C=C(CNC(C)=O)C=CC1 | C9H10BrNO
